US05204326
Preparation of Boc-Ser(Bzl)-Asn-Leu-Ser(Bzl)-Thr(Bzl)-Tyr(CH2COOH)-OCH3
By using 2.50 g of Boc-Ser(Bzl)-Thr(Bzl)-Tyr(CH2COOH)-OCH3 and 2.23 g of Boc-Ser(Bzl)-Asn-Leu-NHNH2 and the same procedure as in Reference Example 7 was repeated to obtain 2.49 g (yield: 63.8%) of the above-mentioned objective product.

reactant | Boc-Ser(Bzl)-Thr(Bzl)-Tyr(CH2COOH)-OCH3 | 2.50 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC(=O)O)C(=O)OC)C(=O)OC(C)(C)C | C38H47N3O11
reactant | Boc-Ser(Bzl)-Asn-Leu-NHNH2 | 2.23 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OC(C)(C)C | C25H40N6O7
product | Boc-Ser(Bzl)-Asn-Leu-Ser(Bzl)-Thr(Bzl)-Tyr(CH2COOH)-OCH3 | 2.49 g, yield: 63.8% | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC(=O)O)C(=O)OC)C(=O)OC(C)(C)C | C58H75N7O16
